US03986972
Preparation of p-Methoxybenzoyl Cyanide
A mixture of p-methoxybenzoyl chloride (11.9 grams; 0.07 mole) and tetrabutylammonium bromide (0.10 gram) in 60 mls. of methylene dichloride is cooled to 0°-5° C. and a solution of sodium cyanide (3.63 grams; 0.074 mole) in 8 mls. of water is added thereto at 0-5° C. Upon completion of the addition of the sodium cyanide the reaction mixture is stirred at 0-5° C. for an additional period of about 11/4 hours and filtered. The filtrate is dried over magnesium sulfate, filtered to separate the magnesium sulfate and evaporated under vacuum to obtain an oil which solidifies. The solid is dissolved in hot hexane and the hexane solution is treated with activated carbon and filtered to separate the carbon. The filtrate is cooled to room temperature and later filtered to recover 6.2 grams of the desired product which melts at 51°-53° C.

reactant | p-methoxybenzoyl chloride | 0.07 mole, 11.9 grams | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | methylene dichloride | C(Cl)Cl | CH2Cl2
reactant | sodium cyanide | 0.074 mole, 3.63 grams | [C-]#N.[Na+]
reactant | water | O | H2O
catalyst | tetrabutylammonium bromide | 0.10 gram | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | CCCCCC | C6H14
product | p-Methoxybenzoyl Cyanide | COC1=CC=C(C(=O)C#N)C=C1 | C9H7NO2
